US08497281B2
Step 1: cis-2,2,2-trifluoro-1-(6-methyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone
Tetrakis(triphenylphosphine)palladium(0) (17 mg) is added to a flask charged with a stir bar, trifluoromethanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester (200 mg), trimethylboroxine (81 μL), K3PO4 (0.15 g), and 1,4-dioxane (4 mL) under argon atmosphere at room temperature. The reaction mixture is heated to 100° C. and stirred at this temperature overnight. Another portion of trimethylboroxine (40 μL) and tetrakis(triphenylphosphine)palladium(0) (17 mg) is then added and stirring is continued at 100° C. The addition of further amounts of trimethylboroxine and tetrakis(triphenylphosphine)palladium(0) is repeated after each 6 h of stirring until the starting material is completely consumed. After cooling to room temperature, water is added and the resulting mixture is extracted with ethyl acetate. The combined extract is dried (Na2SO4) and concentrated and the residue is chromatographed on silica gel (dichloromethane/methanol 1:0→9:1) to give the title compound. Yield: 50 mg (37% of theory); LC (method 1): tR=4.62 min; Mass spectrum (ESI+): m/z=284 [M+H]+.

reactant | trifluoromethanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | 200 mg | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H13F6NO4S
reactant | trimethylboroxine | 81 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K3PO4 | 0.15 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trimethylboroxine | 40 μL | CB1OB(OB(O1)C)C | C3H9B3O3
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | cis-2,2,2-trifluoro-1-(6-methyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)C)(F)F | C15H16F3NO
